US04500540
Assay for Thromboxane Synthase
To a 12×75 mm tube containing [1-14C] PGH2 (2 μg, 0.01 μCi or 0.05 μCi) and inhibitor (1 mM final assay concentration, in 10 μl of ethanol) in 225 μl of phosphate buffer (0.1M, pH 7.5), was added to an aliquot of guinea pig lung mocrosomes (25 μl, containing 400 μg protein) or an aliquot of human platelet microsomes (25 μl, containing ≅130 g protein). The solution was incubated in a 22° water bath for 2 min.; ether (1 ml) and citric acid (25 μMoles) were added, and the tube plunged into an acetone-dry ice bath. The ether extract was transferred to a 1.0 ml Reacti-vial, and the volume reduced under nitrogen to ≅50 μl.

reactant | PGH2 | 2 μg | CCCCC[C@@H](/C=C/[C@H]1[C@H]2C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)OO2)O | C20H32O5
reactant | citric acid | 25 μMoles | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ether | 1 ml | CCOCC | C4H10O
product | Thromboxane | CCCCCCC[C@H]1CCCO[C@@H]1CCCCCCCC | C20H40O
